US09108121B2
Adipic acid is generally synthesized from cyclohexane by oxidation of the latter to give a cyclohexanone/cyclohexanol mixture, followed by oxidation of this mixture by nitric acid to give adipic acid.

reactant | Adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
solvent | cyclohexane | C1CCCCC1 | C6H12
product | cyclohexanone cyclohexanol | C1(CCCCC1)=O.C1(CCCCC1)O | InChI=1S/C6H12O.C6H10O/c2*7-6-4-2-1-3-5-6/h6-7H,1-5H2;1-5H2
